US07625888B2
Step B: 2-(Trifluoromethyl)pyrazolo [1,5-a]pyrazin-4(5H)-one
A mixture of 267 mg (1 mmol) of N-(2,2-dimethoxyethyl)-3-(trifluoromethyl)-1H-pyrazole-5-carboxamide, 1.6 mL of trifluoroacetic acid, and 1.6 mL of dichloromethane was stirred at room temperature overnight and then concentrated. The residue was suspended in polyphosphoric acid (enough to cover it) and heated at 145° C. for 4.5 h. The cooled mixture was treated with ice, and the pH was adjusted to 8-9 by addition of concentrated ammonium hydroxide solution. The mixture was transferred to a separatory funnel and shaken with dichloromethane. The organic phase was separated, and the aqueous phase was extracted twice more with dichloromethane. The combined organic fractions were dried over sodium sulfate, filtered, and concentrated to yield the title compound as a solid.

reactant | N-(2,2-dimethoxyethyl)-3-(trifluoromethyl)-1H-pyrazole-5-carboxamide | 1 mmol, 267 mg | COC(CNC(=O)C1=CC(=NN1)C(F)(F)F)OC | C9H12F3N3O3
reactant | trifluoroacetic acid | 1.6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
product | 2-(Trifluoromethyl)pyrazolo [1,5-a]pyrazin-4(5H)-one | FC(C1=NN2C(C(NC=C2)=O)=C1)(F)F | C7H4F3N3O
